US07829580B2
(c) (E)-4-(Acetylsulfanyl)-3-[(pyridin-3-yl)methylidene]-1-(triphenylmethyl)piperidine
To a solution of (E)-3-[(pyridin-3-yl)methylidene]-1-(triphenylmethyl)piperidin-4-ol (5.40 g) in dichloromethane (85 ml) were added successively methanesulfonyl chloride (1.93 ml) and triethylamine (3.49 ml) under ice-cooling, and the resulting mixture was stirred at room temperature for 3 hours. The reaction mixture was evaporated in vacuo, and the residue was diluted with ethyl acetate and washed with saturated aqueous sodium chloride solution. The organic layer was dried over anhydrous sodium sulfate, and the solvent was evaporated in vacuo. Subsequently, to a solution of the residue thus obtained in dimethyl sulfoxide (75 ml) was added potassium thioacetate (7.10 g) at room temperature, and the resulting mixture was stirred at 40° C. for 1 hour. The reaction mixture was diluted with ethyl acetate and washed with saturated aqueous sodium chloride solution. The organic layer was dried over anhydrous sodium sulfate. The solvent was removed, and the residue was purified by chromatography on a silica gel column using a mixed solvent of ethyl acetate and hexane (1:9) as the eluent to afford the title compound (2.68 g, yield: 42%) as a pale brown amorphous solid.

reactant | (E)-3-[(pyridin-3-yl)methylidene]-1-(triphenylmethyl)piperidin-4-ol | 5.40 g | N1=CC(=CC=C1)\C=C\1/CN(CCC1O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C30H28N2O
reactant | methanesulfonyl chloride | 1.93 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 3.49 ml | C(C)N(CC)CC | C6H15N
reactant | potassium thioacetate | 7.10 g | C(C)(=S)[O-].[K+]
solvent | dichloromethane | 85 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (E)-4-(Acetylsulfanyl)-3-[(pyridin-3-yl)methylidene]-1-(triphenylmethyl)piperidine | 2.68 g, yield: 42% | C(C)(=O)SC1/C(/CN(CC1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=C/C=1C=NC=CC1 | C32H30N2OS
